US06353006B1
(1S)-1-(Hydroxymethyl)-2-methylbutylamine was made from (L)-isoleucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S)-1-(chloromethyl)-2-methylbutanammonium chloride as described in Method B7a. 4-Chloro-3-(trifluoromethyl)aniline was converted to 4-chloro-3-(trifluoromethyl)phenyl isothiocyanate according to Method A2a, Step 3 4-Chloro-3-(trifluoromethyl)phenyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-2-methylbutanammonium chloride according to Method C1a to give (4S)-2-(4-chloro-3-(trifluoromethyl)phenylimino)-4-(2-butyl)-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to afford (4S)-2-(4-chloro-3-(trifluoromethyl)phenylimino)-4-(2-butyl)-3-isobutyl-1,3-thiazolidine.

reactant | (1S)-1-(Hydroxymethyl)-2-methylbutylamine | OC[C@H](C(CC)C)N | C6H15NO
reactant | (L)-isoleucine methyl ester | COC([C@@H](N)[C@@H](C)CC)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 4-Chloro-3-(trifluoromethyl)aniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | 4-chloro-3-(trifluoromethyl)phenyl isothiocyanate | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | (4S)-2-(4-chloro-3-(trifluoromethyl)phenylimino)-4-(2-butyl)-1,3-thiazolidine | ClC1=C(C=C(C=C1)N=C1SC[C@@H](N1)C(C)CC)C(F)(F)F | C14H16ClF3N2S
